US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-cyano-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide (0.178 g, 0.398 mmol) in methanol (5 ml) at 0° C. was added sodium borohydride (0.015 g, 0.398 mmol) and the reaction mixture was allowed to warm to rt over 30 minutes. The reaction mixture was neutralized with saturated sodium bicarbonate, diluted with EtOAc, and the organic layer was separated. The solvent was evaporated and the crude material was purifed via silica gel chromatography to give 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(hydroxymethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-methyl-1H-imidazole-5-carboxamide (0.135 g, 0.300 mmol, 76% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.39 (s, 1H), 7.27-7.38 (m, 2H), 7.18 (s, 1H), 7.08 (s, 1H), 4.60 (s, 2 H), 4.58 (s, 2H), 2.32 (s, 3H). LC-MS (ES+) m/z 448.94, [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-5-formylphenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide | 0.398 mmol, 0.178 g | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C=O)C#N)F)C | C20H13Cl2FN4O3
reactant | sodium borohydride | 0.398 mmol, 0.015 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(hydroxymethyl)phenyl]oxy}-2-fluorophenyl)methyl]-2-methyl-1H-imidazole-5-carboxamide | 0.300 mmol, 0.135 g, 76% yield | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CO)C#N)F)C | C20H15Cl2FN4O3
